US07101868B2
N-[4-tert-Butyl-3-(1-Boc-piperidin-4-ylmethoxy)-phenyl]-2-(4-fluoro-benzylamino)-nicotinamide
N-[4-tert-Butyl-3-(1-Boc-piperidin-4-ylmethoxy)-phenyl]-2-chloro-nicotinamide (200 mg), DIEA (145 μL), IpOH (3 mL) and 4-fluorobenzylamine (184 μL) were combined in a sealed tube and heated to 125° C. for 2 days. The mixture was purified by flash chromatography (EtOAc) to provide the product. M+Na 619; Calc'd for C34H43FN4O4: 590.33.

reactant | N-[4-tert-Butyl-3-(1-Boc-piperidin-4-ylmethoxy)-phenyl]-2-chloro-nicotinamide | 200 mg | C(C)(C)(C)C1=C(C=C(C=C1)NC(C1=C(N=CC=C1)Cl)=O)OCC1CCN(CC1)C(=O)OC(C)(C)C | C27H36ClN3O4
reactant | DIEA | 145 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-fluorobenzylamine | 184 μL | FC1=CC=C(CN)C=C1 | C7H8FN
product | N-[4-tert-Butyl-3-(1-Boc-piperidin-4-ylmethoxy)-phenyl]-2-(4-fluoro-benzylamino)-nicotinamide | C(C)(C)(C)C1=C(C=C(C=C1)NC(C1=C(N=CC=C1)NCC1=CC=C(C=C1)F)=O)OCC1CCN(CC1)C(=O)OC(C)(C)C | C34H43FN4O4
